US06350771B1
To a suspension of 35% potassium hydride in oil (1.4 g) in dry N,N-dimethylformamide (DMF) was added a solution of 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-amino-4-(ethylsulfinyl)-1H-pyrazole-3-carbonitrile (5.0 g) in dry DMF at 4° C. and stirred for 40 min. 2—Chloroethyl methyl sulfide (1.39 g) was added at 4° C. and the stirred mixture allowed to warm to 20° C. over 40 minutes, then heated to 50° C. for 4 hours and at 20° C. for 3 days. Ammonium chloride solution and ethyl acetate were added and the organic layer dried (sodium sulfate), evaporated and purified by column chromatography using 80% methyl t-butyl ether in hexane to give 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[[-2-(methylthio)ethyl]amino]-4-(ethylsulfinyl)-1H-pyrazole-3-carbonitrile (0.26 g), m.p. 126-127° C.

reactant | potassium hydride | [H-].[K+]
reactant | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-amino-4-(ethylsulfinyl)-1H-pyrazole-3-carbonitrile | 5.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N)S(=O)CC)C#N | C13H9Cl2F3N4OS
reactant | 2—Chloroethyl methyl sulfide | 1.39 g | CSCCCl | C3H7ClS
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[[-2-(methylthio)ethyl]amino]-4-(ethylsulfinyl)-1H-pyrazole-3-carbonitrile | 0.26 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NCCSC)S(=O)CC)C#N | C16H15Cl2F3N4OS2
